US04801705
(C) 1-(Aminocarbonyl)-3-(3,4-dimethoxyphenyl)-2-imidazolidinone
A solution of 13.33 g (60 mmol) of 1-(3,4-dimethoxyphenyl)-2-imidazolidinone in 150 ml of ethyl acetate was cooled to 0° C., and 8.92 g (63 mmol) of chlorosulfonylisocyanate was added dropwise. The mixture was stirred for one hour at room temperature. To the resulting thick suspension was added 50 ml of water, and the mixture was stirred until two clear layers were formed. The aqueous phase was separated and stored in the refrigerator overnight. The precipitate was filtered off by suction, washed with water and dried in vacuo; yield: 11.04 g; melting point 240° C.

reactant | 1-(3,4-dimethoxyphenyl)-2-imidazolidinone | 60 mmol, 13.33 g | COC=1C=C(C=CC1OC)N1C(NCC1)=O | C11H14N2O3
reactant | chlorosulfonylisocyanate | 63 mmol, 8.92 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | water | 50 ml | O | H2O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1-(Aminocarbonyl)-3-(3,4-dimethoxyphenyl)-2-imidazolidinone | NC(=O)N1C(N(CC1)C1=CC(=C(C=C1)OC)OC)=O | C12H15N3O4
